US07566699B2
4′-Benzyloxy-6′-hydroxy-2′-(methoxycarbonylmethoxy)dihydrochalcone
To a solution of 4′,6′-dihydroxy-2′-(methoxycarbonylmethoxy)dihydrochalcone (0.6 g) in N,N-dimethylformamide (10 mL) were added potassium carbonate (0.26 g) and benzyl bromide (0.22 mL), and the mixture was stirred at room temperature for 3 days. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration and dried under reduced pressure to give the title compound (0.53 g).

reactant | 4′,6′-dihydroxy-2′-(methoxycarbonylmethoxy)dihydrochalcone | 0.6 g | OC1=CC(=C(C(C=CC2CC=CC=C2)=O)C(=C1)O)OCC(=O)OC | C18H18O6
reactant | potassium carbonate | 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.22 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4′-Benzyloxy-6′-hydroxy-2′-(methoxycarbonylmethoxy)dihydrochalcone | 0.53 g | C(C1=CC=CC=C1)OC1=CC(=C(C(C=CC2CC=CC=C2)=O)C(=C1)O)OCC(=O)OC | C25H24O6
